US07297795B2
To a solution of 1-[3-(2-methoxy-5-nitro-phenoxy)-propyl]-4-methyl-piperazine (2.5 g, 8.1 mmol) in 25 mL of iso-propanol was added 10% Pd-C (0.25 g, 10 wt. %). This mixture was shaken under 35-40 psi of hydrogen in a Parr shaker until hydrogen uptake ceased. The reaction mixture was purged with nitrogen and filtered through celite. The resulting solution was concentrated in vacuo to give the crude 4-methoxy-3-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenylamine as a yellow oil which was used directly in the coupling step described below. 1H NMR (300 MHz, CDCl3) δ 6.71 (d, J=8 Hz, 1H), 6.33 (d, J=2.4 Hz, 1H), 6.23 (dd, J=2.4, 8 Hz, 1H), 4.05 (t, J=8 Hz, 2H), 3.80 (s, 3H), 2.53 (m,10H), 2.30 (s, 3H), 2.02 (m, 2H).

reactant | 1-[3-(2-methoxy-5-nitro-phenoxy)-propyl]-4-methyl-piperazine | 8.1 mmol, 2.5 g | COC1=C(OCCCN2CCN(CC2)C)C=C(C=C1)[N+](=O)[O-] | C15H23N3O4
reactant | hydrogen | [H][H] | H2
solvent | iso-propanol | 25 mL | C(C)(C)O | C3H8O
catalyst | Pd-C | 0.25 g | [Pd] | Pd
product | 4-methoxy-3-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenylamine | COC1=C(C=C(C=C1)N)OCCCN1CCN(CC1)C | C15H25N3O2
